Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
codeine / propoxyphene / adhesive
 
Attending: ___
 
Chief Complaint:
Small intraparenchymal hemorrhage
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ female with history of atrial fibrillation on
___ who presents to ___ on ___ with a mild
TBI. She initially presented to ___ after she
sustained a fall. She states she was walking to the bathroom, 
she
felt dizzy and fell and striked her head on the bathroom floor
without LOC. She reports she has baseline chronic dizziness that
has been worked up. She states that she was started on a 
diuretic
1 week ago by her Cardiologist for swelling in her legs. C/o
headache, states is chronic for her, r/t cervical stenosis.
Denies blurry vision, nausea, vomiting, parasthesias. CT head
showed small left occipital hemorrhage. Patient was transferred
to ___ for further evaluation. Neurosurgery was consulted
 
Past Medical History:
Syncopal episodes, loop monitor implanted ___. Status
post tilt table testing 
years ago.
Atrial fibrillation on Eliquis
Hypertension
Dementia
Anxiety depression
Arthritis multiple joints
Neuropathy of the hands and legs
Breast cancer status post chemotherapy and double mastectomy
Uterine cancer status post hysterectomy
Rib fractures from falls due to syncopal episodes
cholecystectomy, open
hysterectomy, open
double mastectomy
Left hip replacement
Right knee replacement
Bilateral shoulder surgeries
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Upon Admission:
===============

Gen: elderly female, WD/WN, comfortable, NAD.
Integumentary: ecchymosis and lacerations to left forehead 
Extrem: warm and well perfused

Neuro:

Mental Status: Awake, alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and date.

Language: Speech is fluent with good comprehension. 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2 mm
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Normal bulk and tone bilaterally. No abnormal movements,
tremors. No pronator drift. Strength full power ___ throughout
except right upper extremity delt ___ due to shoulder injury. 

Sensation: Intact to light touch

Upon Discharge:
===============
She is awake, alert, and cooperative with the exam. She is 
oriented to self, location, and date. She has ecchymosis and 
abrasions to left side of face covered with bandaids. PERRL, 
EOMI. ___. No pronator drift. She moves all her extremities 
with ___ strength with the exception of her right deltoid ___ 
secondary to baseline rotator cuff injury. Sensation intact to 
light touch.
 
Pertinent Results:
Please see OMR for relevant findings.
 
Brief Hospital Course:
___ is a ___ year old female with history of atrial 
fibrillaion on Eliquis who presented with small intraparenchymal 
hemorrhage after a fall.

#Intraparenchymal hemorrhage
She was admitted to the floor for monitoring. Given the small 
size of the hemorrhage, Eliquis was resumed. She remained at her 
neurologic baseline throughout her hospitalization. On day of 
discharge, her pain was well controlled on oral medications. She 
was tolerating a diet and ambulating. Her vital signs were 
stable and she was afebrile. She was discharged back to her 
assisted living facility in a stable condition.
 
Medications on Admission:
Amiodarone 100mg Daily, Apixaban 2.5mg BID, Gabapentin 300mg 
BID, Levothyroxine 75 mcg Daily
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Amiodarone 100 mg PO DAILY  
3.  Apixaban 2.5 mg PO BID  
4.  Gabapentin 300 mg PO BID  
5.  Levothyroxine Sodium 75 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Intraparenchymal hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions:

Activity
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once. 

Medications
•You have been cleared to resume Eliquis.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
Headaches:
•Headache is one of the most common symptoms after traumatic 
brain injury. Headaches can be long-lasting. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:
•You were given information about headaches after TBI and the 
impact that TBI can have on your family.
•If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

When to Call Your Doctor at ___ for:
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason
 
Followup Instructions:
___